US05175157
3-[2-(N-((2-Methyl-naphth-1-yl)-methyl)-piperid-2-yl)-ethyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride
Prepared from 3-[2-(piperid-2-yl)-ethyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and 1-chloromethyl-2-methyl-naphthalene analogously to Example 1.

reactant | 3-[2-(piperid-2-yl)-ethyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | N1C(CCCC1)CCN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C19H28N2O3
reactant | 1-chloromethyl-2-methyl-naphthalene | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
product | 3-[2-(N-((2-Methyl-naphth-1-yl)-methyl)-piperid-2-yl)-ethyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride | Cl.CC1=C(C2=CC=CC=C2C=C1)CN1C(CCCC1)CCN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C31H38N2O3.ClH/c1-22-11-12-23-8-4-5-10-27(23)28(22)21-33-15-7-6-9-26(33)14-17-32-16-13-24-18-29(35-2)30(36-3)19-25(24)20-31(32)34;/h4-5,8,10-12,18-19,26H,6-7,9,13-17,20-21H2,1-3H3;1H
